US04281000
3-Bromo-6-methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine
A mixture of 1.65 g. of 6-methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine and 1.54 g. of N-bromosuccinimide in 50 ml. of dichloromethane is heated on a steam bath for 15 minutes. The mixture is poured into 100 ml. of ice cold 2.5 N sodium hydroxide. The dichloromethane layer is separated, dried over anhydrous sodium sulfate and passed through a column of hydrous magnesium silicate. The eluent is concentrated and hexane added to give 1.20 g. of the product of the example, m.p. 166°-168° C.

reactant | 6-methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | CC=1C=NC=2N(C1C=1C=NC=CC1)N=CC2 | C12H10N4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Bromo-6-methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=CC(=C2C=2C=NC=CC2)C | C12H9BrN4
